US07582629B2
2-Butyl-4-chloro-5-(4-chlorophenyl)isothiazol-3(2H)-one 1,1-dioxide
2-Butyl-5-(4-chlorophenyl)-4-hydroxyisothiazol-3(2H)-one 1,1-dioxide (0.9 g, ca. 60%, 1.71 mmol) was dissolved in DCM (50 mL). DMF (0.13 mL) was added. Under nitrogen atmosphere, oxalyl chloride (0.434 g, 3.42 mmol) was dropped in. The mixture was then heated to reflux for 2 h and then evaporated to dry. Water (30 mL) was added into the residue. It was then extracted with DCM (20 mL×3). The extracts were combined and washed with water (50 mL×3) and brine (20 mL), dried (MgSO4) and evaporated. The residue was then purified by column chromatography (ISOLUTE SI, 20 g/70 mL), eluting with DCM:heptane (25:75), to give the title compound (0.496 g, 87%); 1H NMR (400 MHz, CDCl3): δ 7.93 (d, 2H), 7.54 (d, 2H), 3.76 (t; 2H), 1.85-1.77 (m, 2H), 1.48-1.39 (m, 2H), 0.98 (t, 3H); 13C NMR (100 MHz, CDCl3): δ 155.8, 142.4, 139.0, 130.2, 129.9, 127.7, 121.8, 40.8, 30.2, 19.9, 13.4.

reactant | 2-Butyl-5-(4-chlorophenyl)-4-hydroxyisothiazol-3(2H)-one 1,1-dioxide | 1.71 mmol, 0.9 g | C(CCC)N1S(C(=C(C1=O)O)C1=CC=C(C=C1)Cl)(=O)=O | C13H14ClNO4S
reactant | DMF | 0.13 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 3.42 mmol, 0.434 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Butyl-4-chloro-5-(4-chlorophenyl)isothiazol-3(2H)-one 1,1-dioxide | 0.496 g, 87% | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=C(C=C1)Cl)(=O)=O | C13H13Cl2NO3S
